* C:\Users\Thomas Kulin\Documents\Projects\CG-490\SPICE Simulations\TVS Diode Config.asc
XM1 Vo Vi 0 IPB180N10S4_02_L0
V1 N002 0 PULSE(0 20 0.001 1e-7 1e-7 0.005 0 1) Rser=0.1`
V2 N001 0 50 Rser=.12
L1 N001 Vo 40e-6 Rser=.08 Cpar=1e-9
R1 Vi N002 4
XD1 N003 Vo SMDJ24A
XD2 0 N003 SMDJ24A
.lib mylib\NMOS\OptiMOS-T2_100V.lib
.tran 0 0.01 0 0.00001
.lib mylib\TVS\SMDJXXXA.lib
.backanno
.end
